US08461164B2
2-Chloroisonicotinic acid (2.0 g, 13 mmol) was suspended in 50 mL dry CH2Cl2 and treated with oxalyl chloride (3.5 mL, 5.0 g, 39 mmol) plus 3 drops DMF. The mixture was stirred for 4 h, the volatiles removed in vacuo and the residue taken up in 50 mL CH2Cl2. After cooling to 0° C. and treating with neopentyl alcohol (1.7 ml, 1.4 g, 16 mmol), Et3N (2.5 mL, 1.8 g, 18 mmol) was added in portions. The mixture was warmed to 25° C., stirred for 15 h, washed sequentially with 15 mL H2O, 15 mL saturated aqueous NaHCO3, and 15 mL brine, then dried (Na2SO4), filtered, and concentrated in vacuo to give 2.4 g (80%) of 2-chloroisonicotinic acid, 2,2-dimethyl-propyl ester as an oil, used without additional purification: 1H NMR (300 MHz, CDCl3) δ 8.56 (d, J=5.6 Hz, 1H), 7.88 (s, 1H), 7.78 (d J=5.0 Hz, 1H), 4.06 (s, 2H), 1.05 (s, 9H).

reactant | 2-Chloroisonicotinic acid | 13 mmol, 2.0 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | oxalyl chloride | 39 mmol, 3.5 mL, 5.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | neopentyl alcohol | 16 mmol, 1.7 ml, 1.4 g | C(C(C)(C)C)O | C5H12O
reactant | Et3N | 18 mmol, 2.5 mL, 1.8 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-chloroisonicotinic acid, 2,2-dimethyl-propyl ester | 2.4 g, 80% | ClC=1C=C(C(=O)OCC(C)(C)C)C=CN1 | C11H14ClNO2
